US06689922B1
6-[3-(3,4-bis-Hydroxymethylbenzyloxy)phenyl]-2-methylhepta-3,5-dien-2-ol
In a manner similar to Example 3(i), by reacting 1.6 ml of tetrabutylammonium fluoride 1M/THF with 424 mg (0.71 mmol) of 6-{3-[3,4-bis-(tert-butyldimethylsilanyloxymethyl)benzyloxy]phenyl}-2-methylhepta-3,5-dien-2-ol in 15 ml of THF, after purification on a silica column (ethyl acetate 90-heptane 10), a yellow oil (m=206 mg; Y=79%) is obtained.

reactant | tetrabutylammonium fluoride | 1M, 1.6 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 6-{3-[3,4-bis-(tert-butyldimethylsilanyloxymethyl)benzyloxy]phenyl}-2-methylhepta-3,5-dien-2-ol | 0.71 mmol, 424 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=C(COC=2C=C(C=CC2)C(=CC=CC(C)(O)C)C)C=CC1CO[Si](C)(C)C(C)(C)C | C35H56O4Si2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 6-[3-(3,4-bis-Hydroxymethylbenzyloxy)phenyl]-2-methylhepta-3,5-dien-2-ol | OCC=1C=C(COC=2C=C(C=CC2)C(=CC=CC(C)(O)C)C)C=CC1CO | C23H28O4
